US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 38)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 3.25-3.32 (m, 4H), 3.84 (s, 3H), 4.08-4.15 (m, 4H), 7.06-7.08 (m, 2H), 7.21 (m, 1H), 7.41-7.67 (m, 4H), 7.82 (s, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 91% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N | C21H19ClN6O2
